US08445499B2
Step 2: tert-butyl 1′-[6-(methylamino)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate
The tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate (19 mg, 0.05 mmol) was added to methyl amine in MeOH (1N, 2 mL) in a sealed bottle and heated to 50° C. for 2 days. The reaction crude were cooled down to r.t. and concentrated on rotavapor. The crude mixture was purified by preparative TLC with 10% methanol: dichloromethane to yield title compound.

reactant | tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate | 0.05 mmol, 19 mg | ClC1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H29ClN4O2
reactant | methyl amine | CN | CH5N
solvent | MeOH | 1N, 2 mL | CO | CH4O
product | tert-butyl 1′-[6-(methylamino)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate | CNC1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H33N5O2
